US05977152
1-(tert-Butoxycarbonyl)-4-mercaptopiperidine
In dry methanol were dissolved 520 mg (2 mmol) of 4-(acetylthio)-1-(tert-butoxycarbonyl)piperidine, and 420 μl (2 mmol) of a 28% sodium methoxide-methanol solution were added to the mixture under ice-cooling and under a nitrogen atmosphere, followed by stirring of the resulting mixture for 40 minutes. Then, 173 μl of acetic acid were added to the mixture and the solvent was distilled off at room temperature, followed by diluting of the residue with ethyl acetate. The mixture was washed successively with an aqueous sodium hydrogencarbonate solution and an aqueous NaCl solution in the order and the solvent was distilled off to obtain 430 mg of reddish orange oil. This product was used for a subsequent reaction without purification.

reactant | 4-(acetylthio)-1-(tert-butoxycarbonyl)piperidine | 2 mmol, 520 mg | C(C)(=O)SC1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO3S
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | acetic acid | 173 μl | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 1-(tert-Butoxycarbonyl)-4-mercaptopiperidine | 430 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)S | C10H19NO2S
